US06140333
4-(2-Aminoethylidene)-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine
To a solution of 18 mg of 4-(2-azidoethylidene)-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine in 2.2 ml of 10% aqueous tetrahydrofuran, 15 mg of triphenylphosphine was added at room temperature, followed by reflux for 15 hours under heating. The solvent was distilled off under reduced pressure, and 15 mg of the title compound was obtained as a colorless oily substance by purifying the resulting residue by preparative thin-layer chromatography [Kieselgel™60F654, Art 5744 (Merck); chloroform/methanol/aqueous ammonia=20/1].

reactant | 4-(2-azidoethylidene)-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine | 18 mg | N(=[N+]=[N-])CC=C1CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | C20H24F2N4O2
reactant | triphenylphosphine | 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
product | 4-(2-Aminoethylidene)-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine | 15 mg | NCC=C1CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | C20H26F2N2O2
